US05244889
Diethyl 2-oxo-1-azacyclotetradecane-3,14-dicarboxylate (1.14 g, 3.2 mmol; mixture of both diastereomers) is dissolved in ethanol (32.0 mL). Sodium hydroxide (9.6 mL of a 1N aqueous solution, 9.6 mmol) is added dropwise, and the solution is stirred at room temperature for 3 hours. The reaction is then acidified to pH 3 with 1N hydrochloric acid, and partitioned between ethyl acetate and water. The aqueous phase is extracted several times with ethyl acetate, the combined organic layers are dried (Na2SO4), and the solvent is evaporated to give both diastereomers of 2-oxo-1-azacyclotetradecane-3,14-dicarboxylic acid.

reactant | Diethyl 2-oxo-1-azacyclotetradecane-3,14-dicarboxylate | O=C1NC(CCCCCCCCCCC1C(=O)OCC)C(=O)OCC | C19H33NO5
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 32.0 mL | C(C)O | C2H6O
product | 2-oxo-1-azacyclotetradecane-3,14-dicarboxylic acid | O=C1NC(CCCCCCCCCCC1C(=O)O)C(=O)O | C15H25NO5
